US07241760B2
2-Chloro-5-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-pyridine
The title compound, MS: m/e=328.1 (M+), was prepared in accordance with the general method of example 1 from 4-(3-chloro-phenylethynyl)-2-methyl-1H-imidazole and 2-chloro-5-fluoro-pyridine.

reactant | 4-(3-chloro-phenylethynyl)-2-methyl-1H-imidazole | ClC=1C=C(C=CC1)C#CC=1N=C(NC1)C | C12H9ClN2
reactant | 2-chloro-5-fluoro-pyridine | ClC1=NC=C(C=C1)F | C5H3ClFN
product | 2-Chloro-5-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-pyridine | ClC1=NC=C(C=C1)N1C(=NC(=C1)C#CC1=CC(=CC=C1)Cl)C | C17H11Cl2N3
